US09255093B2
Step 5: Synthesis of 6-(bromomethyl)benzofuran-2-carbonitrile
6-methylbenzofuran-2-carbonitrile (12 g, 76 mmol), NBS (13.59 g, 76 mmol), and AlBN (1.25 g, 7.64 mmol) were dissolved in carbon tetrachloride (191 ml). The mixture was heated to reflux overnight. After 18 h the reaction was cooled to RT and concentrated under reduced pressure. The product was then crashed out using MeOH and the slurry was placed in the fridge overnight. The slurry was filtered and the collected PPT was washed with MeOH. The collected PPT was pure 6-(bromomethyl)benzofuran-2-carbonitrile (13.864 g). 1H NMR (400 MHz, DMSO-d6) δ 4.87 (s, 2H), 7.52 (dd, J=8.2, 1.4 Hz, 1H), 7.83 (d, J=8.2 Hz, 1H), 7.87 (d, J=1.5 Hz, 1H), 8.11 (d, J=1.0 Hz, 1H).

reactant | 6-methylbenzofuran-2-carbonitrile | 76 mmol, 12 g | CC1=CC2=C(C=C(O2)C#N)C=C1 | C10H7NO
reactant | NBS | 76 mmol, 13.59 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 191 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-(bromomethyl)benzofuran-2-carbonitrile | BrCC1=CC2=C(C=C(O2)C#N)C=C1 | C10H6BrNO
